US08084448B2
C. 5-[2-Benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 1-iodomethyl-2-methoxymethylbenzene analogous to Example 57, step B.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 1-iodomethyl-2-methoxymethylbenzene | ICC1=C(C=CC=C1)COC | C9H11IO
product | 5-[2-Benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC=C1)COC)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C29H36N2O5SSi
